US07439239B2
3-[10-(8-Methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-10H-phenoxazin-3-yl]-4H-[1,2,4]oxadiazol-5-one, 2h
To a solution of N-Hydroxy-10-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-10H-phenoxazine-3-carboxamidine, 1 h (0.66 g; 1.81 mmol) in dioxane (20 mL) was added 1,1′-carbonyldiimidazole (0.44 g; 2.71 mmol), and the mixture was stirred at 110° C. for 4 h. The mixture was allowed to cool to rt, and the solvent was evaporated. The residue was purified via reverse phase HPLC (eluent gradient: 20 to 45% CH3CN in H2O containing 0.1% TFA) to yield 161 mg (17.6%) of title compound 3-[10-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-10H-phenoxazin-3-yl]-4H-[1,2,4]oxadiazol-5-one, 2h as a TFA salt. MS m/z (MH+) 390.9.

reactant | N-Hydroxy-10-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-10H-phenoxazine-3-carboxamidine | ONC(=N)C=1C=CC=2N(C3=CC=CC=C3OC2C1)C1CC2CCC(C1)N2C | C21H24N4O2
reactant | 1,1′-carbonyldiimidazole | 2.71 mmol, 0.44 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-[10-(8-Methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-10H-phenoxazin-3-yl]-4H-[1,2,4]oxadiazol-5-one | 161 mg, 17.6% | CN1C2CC(CC1CC2)N2C1=CC=CC=C1OC=1C=C(C=CC21)C2=NOC(N2)=O | C22H22N4O3
